US06498165B1
2-[(S)-1-Phenylethylamino]-4-[5-(purin-4-yl)benzimidazol-1-yl]pyrimidine
The title compound was prepared according to the procedure described in EXAMPLE 424, starting from 2-[(S)-1-Phenylethylamino]-4-[5-trimethylstannylbenzimidazol-1-yl]pyrimidine and 4-chloropurine. Mass spectrum (ESI) 443.4 (M+).

reactant | 2-[(S)-1-Phenylethylamino]-4-[5-trimethylstannylbenzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)[Sn](C)(C)C
reactant | 4-chloropurine | ClC12N=CN=CC2=NC=N1 | C5H3ClN4
product | 2-[(S)-1-Phenylethylamino]-4-[5-(purin-4-yl)benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C21N=CN=CC1=NC=N2 | C24H19N9
